US06121272
(3S)-3-Hydroxymethyl-1-[(4-methoxyphenyl)sulfonyl]pyrrolidine (8d):
The 3(S)-hydroxymethylpyrrolidine (0.9 g, 8.90 mmol), triethylamine (1.80 g, 17.8 mmol, 2.0 equiv) in 1,4-dioxane (30 mL) and water (10 mL) is stirred at room temperature and then 4-methoxyphenylsulfonyl chloride (2.02 g, 9.80 mmol, 1.10 equiv) is added. The resulting solution is stirred at room temperature for 3 h. and then the solution is acidified to pH~1 with 1 N HCl. The solution is poured into water and then extracted with CH2Cl2. The organic extracts are dried (Na2SO4) and concentrated to an oil. The oil is purified by chromatography using 1/1 hexane/EtOAc as the eluent to afford the desired product as a colorless oil.

reactant | 3(S)-hydroxymethylpyrrolidine | 8.90 mmol, 0.9 g | OC[C@@H]1CNCC1 | C5H11NO
reactant | triethylamine | 17.8 mmol, 1.80 g, 2.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-methoxyphenylsulfonyl chloride | 9.80 mmol, 2.02 g, 1.10 equiv | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | (3S)-3-Hydroxymethyl-1-[(4-methoxyphenyl)sulfonyl]pyrrolidine | OC[C@@H]1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC | C12H17NO4S
